US06037342
5-Chloro-2-(4-methyl-1-homopiperazinyl)benzoxazole
5-Chloro-2-mercaptobenzoxazole (1 g) was dissolved in toluene (50 ml), N-methylhomopiperazine (3.3 ml) was added dropwise to the solution and then the mixture was stirred with heating for 2 hours. After evaporation of the solvent, the thus obtained mixture was purified by a silica gel column chromatography (methylene chloride:methanol=20:1) to obtain the title compound 5-chloro-2-(4-methyl-1-homopiperazinyl)-benzoxazole (882 mg).

reactant | 5-Chloro-2-mercaptobenzoxazole | 1 g | ClC=1C=CC2=C(N=C(O2)S)C1 | C7H4ClNOS
reactant | N-methylhomopiperazine | 3.3 ml | CN1CCNCCC1 | C6H14N2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-2-(4-methyl-1-homopiperazinyl)-benzoxazole | 882 mg | ClC=1C=CC2=C(N=C(O2)N2CCN(CCC2)C)C1 | C13H16ClN3O
